US07781428B2
(±)-(3SR,3aRS)-2-(2-(2-methoxyethoxy)ethoxy)ethyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate
The title compound was prepared from (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid, Example 15 and 2-(2-(2-methoxyethoxy)ethoxy)ethanol according to Method E (yellow solid, 199 mg, 0.352 mmol, 74% yield). ES-HRMS m/z calc. for C31H36ClN3NaO5 (M+Na) 588.2241, found 588.2245.

reactant | (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)O | C24H22ClN3O2
reactant | 2-(2-(2-methoxyethoxy)ethoxy)ethanol | COCCOCCOCCO | C7H16O4
product | (±)-(3SR,3aRS)-2-(2-(2-methoxyethoxy)ethoxy)ethyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate | 74% yield | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)OCCOCCOCCOC | C31H36ClN3O5
